US06579868B1
6-Chloro-8-(3-fluorophenyl)-2-iodo-9-methyl-9H-purine (1076 g) was dissolved in 10 liters of tetrahydrofuran and 97.2 g of bistriphenylphosphine palladium dichloride, 26.4 g of cuprous iodide and 248 g of 1-ethynylcyclopentanol were added thereto. Into this mixture were added dropwise 331 ml of triethylamine within 15 minutes keeping the bulk temperature at not higher than 26° C. in a nitrogen atmosphere. After reacting at room temperature for 4 hours, the reaction solution was diluted with 10 liters of ethyl acetate and washed with 4 liters of a saturated ammonium chloride solution and 1 liter of brine. The organic layer was dried over 2 kg of anhydrous sodium sulfate and filtered followed by concentrating to an extent of 3 liters. The resulting residue was diluted with 4 liters of hexane-ethyl acetate (1:1), filtered and washed with 1 liter of hexane to give 732 g of 1-{2-[6-chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclopentanol. The yield was 88%.

reactant | 6-Chloro-8-(3-fluorophenyl)-2-iodo-9-methyl-9H-purine | 1076 g | ClC1=C2N=C(N(C2=NC(=N1)I)C)C1=CC(=CC=C1)F | C12H7ClFIN4
reactant | 1-ethynylcyclopentanol | 248 g | C(#C)C1(CCCC1)O | C7H10O
reactant | triethylamine | 331 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 liters | O1CCCC1 | C4H8O
solvent | ethyl acetate | 10 liters | C(C)(=O)OCC | C4H8O2
product | 1-{2-[6-chloro-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclopentanol | 732 g, yield was 88% | ClC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCC1)O)C)C1=CC(=CC=C1)F | C19H16ClFN4O
